US08470836B2
(1) Synthesis of 2-methyl-succinic acid
Commercially available dimethyl methylsuccinate (1.57 g, 9.8 mmol) was dissolved in a 3:1 mixed solvent of tetrahydrofuran and water, and lithium hydroxide (4 g, 98 mmol) was added and stirred for 2 days at 40° C. under reflux. After completion of the reaction was confirmed by TLC, the residue was distilled under reduced pressure to afford the title compound.

reactant | dimethyl methylsuccinate | 9.8 mmol, 1.57 g | CC(C(=O)OC)CC(=O)OC | C7H12O4
reactant | lithium hydroxide | 98 mmol, 4 g | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-succinic acid | CC(C(=O)O)CC(=O)O | C5H8O4
